US07396598B2
That is, under argon stream, 8.69 g (55.0 mmol) of 2-bromopyridine was dissolved in 200 ml of dry tetra hydrofuran and cooled to −78° C. To this was dripped 38.7 ml (61.9 mmol) of a 1.6 M hexane solution of n-butyllithium over 30 minutes. After completion of the dripping, further a solution of 7.5 g (55.0 mmol) of zinc chloride in 50 ml of dry tetra hydrofuran was dripped over 30 minutes. After completion of the dripping, the temperature of the mixture was slowly elevated to 0° C. and 9.65 g (55.0 mmol) of 1-bromo-2,4-difluorobenzene and 2.31 g (2.0 mmol) of tetrakis(triphenylphosphine)palladium (0) were added thereto. The mixture was stirred for 6 hours under reflux and then 200 ml of saturated saline was added to the reaction mixture, followed by extraction of the reaction mixture with diethyl ether. After drying the extract, concentration and purification by column chromatography (silica gel; chloroform/hexane (1/1:volume ratio)) afforded 6.00 g (31.4 mmol) of 2-(2,4-difluorophenyl)pyridine as color less transparent oil. Yield: 63%. Identification was performed by elementary analysis of 1H-NMR and elementary analysis of C, H and N.

reactant | 2-bromopyridine | 55.0 mmol, 8.69 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | hexane | 1.6 M | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-2,4-difluorobenzene | 55.0 mmol, 9.65 g | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
solvent | tetra hydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetra hydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 55.0 mmol, 7.5 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 2.0 mmol, 2.31 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,4-difluorophenyl)pyridine | 31.4 mmol, 6.00 g, Yield: 63% | FC1=C(C=CC(=C1)F)C1=NC=CC=C1 | C11H7F2N
